.SUBCKT mmun2212lt1 1 2 3 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 22000
R2   4 3 22000
.MODEL qmodel npn
+IS=8.38182e-14 BF=391.043 NF=1.23872 VAF=23.6405
+IKF=0.0862729 ISE=1e-16 NE=1.79966 BR=0.778367
+NR=1.3733 VAR=102.425 IKR=0.0975384 ISC=9.81319e-14
+NC=1.97115 RB=9.98732 IRB=0.2 RBM=9.98732
+RE=0.000100007 RC=2.00128 XTB=0.432465 XTI=2.99938 EG=1.0861
+CJE=1.04819e-13 VJE=0.745448 MJE=0.33498 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=3.28042e-12
+VJC=1.83603 MJC=0.295425 XCJC=0.9 FC=0.5
.ENDS